US04622169
Silver-1,4-diamino anthraquinone
Silver (I) nitrate (0.71g) is dissolved in acetonitrile (25 ml). Triethylamine (0.3 ml) and 1,4-diamino anthraquinone (0.5 g) are added and a precipitate forms immediately. The precipitate is collected and washed with acetonitrile, dimethylformamide, acetonitrile, and finally methylene chloride before drying. The yield is 0.22 g of a dark blue-black powder having a conductivity of 7.9×10-3S/cm. Analysis shows a composition of C--38.6 percent, H--2.06 percent, N--6.12 percent and Ag--40.1 percent.

reactant | Silver (I) nitrate | 0.71g | [N+](=O)([O-])[O-].[Ag+]
reactant | Triethylamine | 0.3 ml | C(C)N(CC)CC | C6H15N
reactant | 1,4-diamino anthraquinone | 0.5 g | NC1=CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)N | C14H10N2O2
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | Silver 1,4-diamino anthraquinone | [Ag].NC1=CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)N | InChI=1S/C14H10N2O2.Ag/c15-9-5-6-10(16)12-11(9)13(17)7-3-1-2-4-8(7)14(12)18;/h1-6H,15-16H2;
